### PR TITLE
[Merged by Bors] - feat: describe the interval of reals `t` where `exp (t * X)` is integrable

### PR DESCRIPTION
**Pull request by RemyDegenne**
The set of reals `t` where `exp (t * X)` is integrable is an interval containing 0. Also prove integrability of other function for a parameter in that interval.

Rename Probability/Moments to Probability/Moments/Basic

---

- [x] depends on: #20150

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 1]
```diff
@@ -0,0 +1,331 @@
...
+    Integrable (fun ω ↦ exp (t * X ω)) μ := by
+  rcases le_total 0 t with ht | ht
+  · exact integrable_exp_mul_of_nonneg_of_le hb ht htb
+  · exact integrable_exp_mul_of_nonpos_of_ge ha ht hat
+
+end Interval
+
+section FiniteMoments
+
+lemma integrable_exp_mul_abs_add (ht_int_pos : Integrable (fun ω ↦ rexp ((v + t) * X ω)) μ)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:117]: The exponential is called `exp` before, is there a reason you switch to `rexp` here?

**Review by sgouezel — COMMENTED** [review]
I wonder if it's worth giving a name to `{t | Integrable (fun ω ↦ exp (t * X ω)) μ}` and formulating results in terms of this (and state explicitely that this is set is convex). What do you think?

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 2]
```diff
@@ -0,0 +1,331 @@
...
+          refine fun h_eq ↦ ht ?_
+          simpa [h_eq] using hvt
+        exact aemeasurable_of_aemeasurable_exp_mul hvt' ht_int_neg.aemeasurable
+      · exact aemeasurable_of_aemeasurable_exp_mul hvt ht_int_pos.aemeasurable
+    exact ((hX.pow_const _).mul
+      (measurable_exp.comp_aemeasurable (hX.const_mul _))).aestronglyMeasurable
+
+/-- If `ω ↦ rexp (t * X ω)` is integrable at `t` and `-t` for `t ≠ 0`, then `ω ↦ |X ω| ^ n` is
+integrable for all `n : ℕ`. That is, all moments of `X` are finite. -/
+lemma integrable_pow_abs_of_integrable_exp_mul (ht : t ≠ 0)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:236]: Is it easy to also derive a `memLp` statement from this one or the next one (for real exponents, not only integers ones)?

File: Mathlib/Probability/Moments/IntegrableExpMul.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/IntegrableExpMul.lean:117]: I guess I copied something from the infoview, which used rexp. I'll switch it back to exp.

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 3]
```diff
@@ -0,0 +1,452 @@
...
+    _ ≤ x ^ ⌈p⌉₊ := by
+      rw [← rpow_natCast]
+      exact rpow_le_rpow_of_exponent_le hx (Nat.le_ceil _)
+    _ ≤ _ := le_add_of_nonneg_left (by positivity)
+
+/-- If 0 belongs to the interior of `integrableExpSet X μ`, then `X` is in `ℒp` for all
+finite `p` with `1 ≤ p`.
+If `μ` is a finite measure, the condition `1 ≤ p` is not necessary: see
+`memℒp_of_mem_interior_integrableExpSet`. -/
+lemma memℒp_of_mem_interior_integrableExpSet_of_one_le {p : ℝ≥0} (hp : 1 ≤ p)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:407]: I'm not sure you need `1 ≤ p` here. Quick proof sketch: one has x \le e^x for all real x. So c x \le e ^ {c x}, i.e., x \le c^{-1} e^ {c x}. Applying this to x and -x gives |x| \le c^{-1} max (e^{c x}, e^{-c x}), and then |x|^p \le c^{-p} max (e^{p c x}, e^{-p c x}). Then for any p (be it larger or smaller than 1), you can choose c small enough so that e^{p c X} and e^{-p c X} are integrable, and then you deduce that |X|^p is integrable. This has the advantage to avoid the dance with integer parts also...

**Comment by RemyDegenne** [comment]
Thanks for the review and proof suggestions! This is now ready for review again.
I plan to add generalizations of this lemma for other points than 0 :
```lean
lemma memℒp_of_mem_interior_integrableExpSet (h : 0 ∈ interior (integrableExpSet X μ)) (p : ℝ≥0) :
    Memℒp X p μ :=
```
Those generalizations will state that X is integrable with respect to a tilted measure, but I'll do that in a later PR.

**Comment by RemyDegenne** [comment]
awaiting-author
I saw things I should improve while working on related code.

**Comment by RemyDegenne** [comment]
I removed the `IsFiniteMeasure` assumption from some lemmas, and added one more integrability result that I need elsewhere.

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 4]
```diff
@@ -0,0 +1,548 @@
...
+    rw [mul_rpow (by positivity) (by positivity)]
+    congr
+    · field_simp
+    · rw [rpow_max (by positivity) (by positivity) hp, ← exp_mul, ← exp_mul]
+      ring_nf
+      congr <;> rw [mul_assoc, mul_inv_cancel₀ hp_zero, mul_one]
+
+lemma rpow_abs_le_mul_max_exp (x : ℝ) {t p : ℝ} (hp : 0 ≤ p) (ht : t ≠ 0) :
+    |x| ^ p ≤ (p / |t|) ^ p * max (exp (t * x)) (exp (- t * x)) := by
+  rcases lt_trichotomy t 0 with ht_neg | ht_zero | ht_pos
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:234]:
```suggestion
  rcases lt_or_gt_of_ne ht with ht_neg | ht_pos
```
removes the need for the 0 case.

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 5]
```diff
@@ -0,0 +1,548 @@
...
+      positivity
+    · rw [abs_of_nonpos hx]
+      simp only [neg_mul, mul_neg, sup_eq_right, exp_le_exp, le_neg_self_iff]
+      exact mul_nonpos_of_nonneg_of_nonpos (abs_nonneg _) hx
+
+/-- If `exp ((v + t) * X)` and `exp ((v - t) * X)` are integrable
+then for nonnegative `p : ℝ` and any `x ∈ [0, |t|)`,
+`|X| ^ p * exp (v * X + x * |X|)` is integrable. -/
+lemma integrable_rpow_abs_mul_exp_add_of_integrable_exp_mul {x : ℝ}
+    (h_int_pos : Integrable (fun ω ↦ rexp ((v + t) * X ω)) μ)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:259]: Can you switch from `rexp` to `exp` here and in the rest of the file?

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 6]
```diff
@@ -0,0 +1,548 @@
...
+`X ^ n * exp (v * X)` is integrable. -/
+lemma integrable_pow_mul_exp_of_integrable_exp_mul (ht : t ≠ 0)
+    (ht_int_pos : Integrable (fun ω ↦ exp ((v + t) * X ω)) μ)
+    (ht_int_neg : Integrable (fun ω ↦ exp ((v - t) * X ω)) μ) (n : ℕ) :
+    Integrable (fun ω ↦ X ω ^ n * exp (v * X ω)) μ := by
+  convert integrable_rpow_mul_exp_of_integrable_exp_mul ht ht_int_pos ht_int_neg
+    (by positivity : 0 ≤ (n : ℝ)) with ω
+  simp
+
+/-- If `ω ↦ exp (t * X ω)` is integrable at `t` and `-t` for `t ≠ 0`, then `ω ↦ |X ω| ^ n` is
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:367]: Use `p` instead of `n` in the docstring.

**Review by sgouezel — COMMENTED** [review]
Looks very good, thanks!

File: Mathlib/Probability/Moments/IntegrableExpMul.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Probability/Moments/IntegrableExpMul.lean:366]: There is still one `n`...

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by RemyDegenne** [comment]
Thanks for the reviews!
bors r+
